US09403773B2
Potassium carbonate (450 mg, 3.26 mmol) was added to a DMF solution (5 ml) of 8-cyclopropylmethoxy-5-fluoro-3-iodo-1H-quinolin-4-one (910 mg, 2.53 mmol). The mixture was stirred for 15 minutes at room temperature. Ethyl iodide (0.31 ml, 3.87 mmol) was added thereto, and the resulting mixture was stirred at 60° C. for 2 hours. After the reaction mixture was cooled to room temperature, water was added, and the resulting mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure and the residue was then purified by silica gel column chromatography (dichloromethane:ethyl acetate=40:1→15:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 750 mg of powdery pale dark brown 8-cyclopropylmethoxy-1-ethyl-5-fluoro-3-iodo-1H-quinolin-4-one (yield: 77%).

reactant | Potassium carbonate | 3.26 mmol, 450 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | 8-cyclopropylmethoxy-5-fluoro-3-iodo-1H-quinolin-4-one | 2.53 mmol, 910 mg | C1(CC1)COC=1C=CC(=C2C(C(=CNC12)I)=O)F | C13H11FINO2
reactant | Ethyl iodide | 3.87 mmol, 0.31 ml | C(C)I | C2H5I
solvent | water | O | H2O
product | 8-cyclopropylmethoxy-1-ethyl-5-fluoro-3-iodo-1H-quinolin-4-one | 750 mg, yield: 77% | C1(CC1)COC=1C=CC(=C2C(C(=CN(C12)CC)I)=O)F | C15H15FINO2
